US05442060
To a suspension of 1.35 g (35.6 mmol) of lithium aluminum hydride in 60 ml of dry tetrahydrofuran was added 3.71 g (18 mmol) of 2, 6-diisopropylbenzoic acid, and the resultant mixture was refluxed with heating for 16 hours. After cooling, 80 ml of water was portionwise added to the mixture, which was mixed with 90 ml of ethyl ether. The mixture was strongly acidified with conc. hydrochloric acid. The aqueous layer was separated and shaken with ethyl ether. The organic layers were combined, washed with aqueous sodium hydroxide and then saturated saline, dried over anhydrous magnesium sulfate, and the solvent was evaporated in vacuo to give 1.37 g of 2, 6-diisopropylbenzyl alcohol as white solid.

reactant | lithium aluminum hydride | 35.6 mmol, 1.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2, 6-diisopropylbenzoic acid | 18 mmol, 3.71 g | C(C)(C)C1=C(C(=O)O)C(=CC=C1)C(C)C | C13H18O2
reactant | water | 80 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | 90 ml | C(C)OCC | C4H10O
product | 2, 6-diisopropylbenzyl alcohol | 1.37 g | C(C)(C)C1=C(CO)C(=CC=C1)C(C)C | C13H20O
